US05567843
A 7.5-gram portion of the 2-(p-nitrophenyl)-5-nitrobenzoxazole is dissolved in 100 milliliters of 1,4-dioxane. A 10% palladium-on-carbon catalyst (2.0 grams) is added, and the mixture stirred under nitrogen. The mixture is heated to 53° C., and hydrogen gas is bubbled into the mixture for about 6.5 hours. The catalyst is then filtered off and the remaining solution added to water. The solvent and water are then evaporated off to yield 2-(p-aminophenyl)-5-aminobenzoxazole.

reactant | 2-(p-nitrophenyl)-5-nitrobenzoxazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
solvent | 1,4-dioxane | 100 milliliters | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 2.0 grams | [Pd] | Pd
product | 2-(p-aminophenyl)-5-aminobenzoxazole | NC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C13H11N3O
